US09085578B2
A) 2-(6-chloropyridin-2-yl)acetonitrile
To a solution of acetonitrile (2.77 mL) in tetrahydrofuran (80 mL) was added dropwise n-butyl lithium hexane solution (1.6 M, 29.6 mL) at −78° C., and the reaction mixture was stirred at −78° C. for 1 hr under argon atmosphere. A solution of 2,6-dichloropyridine (2.0 g) in tetrahydrofuran (10 mL) was added dropwise thereto at −78° C., and the reaction mixture was stirred at −78° C. for 2 hr under argon atmosphere, and allowed to be warmed to room temperature. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.91 g).

reactant | acetonitrile | 2.77 mL | C(C)#N | C2H3N
reactant | n-butyl lithium hexane | 1.6 M, 29.6 mL | CCCCCC.C(CCC)[Li]
reactant | 2,6-dichloropyridine | 2.0 g | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
reactant | water | O | H2O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(6-chloropyridin-2-yl)acetonitrile | 1.91 g | ClC1=CC=CC(=N1)CC#N | C7H5ClN2
